US04582837
8-(2'-Ethyl-4'-methanesulfonyloxy-phenyl)-purine
Prepared analogously to Example 1 from 8-(2'-ethyl-4'-hydroxyphenyl)-purine and methanesulfonic acid chloride.

reactant | 8-(2'-ethyl-4'-hydroxyphenyl)-purine | C(C)C1=C(C=CC(=C1)O)C1=NC2=NC=NC=C2N1 | C13H12N4O
reactant | methanesulfonic acid chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 8-(2'-Ethyl-4'-methanesulfonyloxy-phenyl)-purine | C(C)C1=C(C=CC(=C1)OS(=O)(=O)C)C1=NC2=NC=NC=C2N1 | C14H14N4O3S
